US09193707B2
Preparation of 2-[[2-(4-fluorophenyl)quinazolin-4-yl]carbonyl]-5-hydroxy-6-methoxy-1,2,3,4-tetrahydroisoquinoline (compound 1)
Into a 50-mL 3-necked round-bottom flask purged and maintained with an inert atmosphere of nitrogen, was placed 2-(4-fluorophenyl)quinazoline-4-carboxylic acid (100 mg, 0.37 mmol, 1.00 equiv), 5-hydroxy-6-methoxy-1,2,3,4-tetrahydroisoquinoline hydrochloride (88 mg, 0.41 mmol, 1.10 equiv), oxolane (10 mL), O-(7-Azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (HATU, 170 mg, 0.45 mmol, 1.20 equiv) and DIEA (241 mg, 1.87 mmol, 5.00 equiv). The resulting solution was stirred overnight at room temperature. The resulting solution was diluted with 100 mL of ethyl acetate. The resulting mixture was washed with 1×100 mL of saturated aqueous sodium bicarbonate, 1×100 mL of ammonia (5%) and 1×100 mL of brine. The mixture was dried over anhydrous sodium sulfate and concentrated under vacuum. The residue was applied onto a silica gel column with ethyl acetate/petroleum ether (1:5-1:1) or purified by Prep-HPLC with the following conditions (Sunfire Prep): Column, C18 Sum 15*190 mm; mobile phase, A: HCOOH B: CH3CN; Detector, UV 254 nm. This resulted in 30 mg (19%) of 2-[[2-(4-fluorophenyl)quinazolin-4-yl]carbonyl]-5-hydroxy-6-methoxy-1,2,3,4-tetrahydroisoquinoline as a yellow solid. 1H NMR (300 MHz, DMSO-d6) δ 2.62 and 2.90 (2t, 2H), 3.48 and 4.03 (2t, 2H), 3.74 and 3.80 (2s, 3H), 4.39 and 4.92 (2s, 2H), 6.30-6.33 (m, 0.4H), 6.69-6.78 (m, 1H), 6.90-6.92 (m, 0.6H), 7.36-7.44 (m, 2.7H), 7.69-7.79 (m, 1H), 7.86-7.97 (m, 1H), 8.06-8.17 (m, 2H), 8.53-8.61 (m, 2H), 8.69 and 8.73 (2s, 1H); 19F (282 MHz, DMSO-d6) δ −110.2; MS (ESI) m/z 430 ([M+H]+).

reactant | 2-(4-fluorophenyl)quinazoline-4-carboxylic acid | 0.37 mmol, 100 mg, 1.00 equiv | FC1=CC=C(C=C1)C1=NC2=CC=CC=C2C(=N1)C(=O)O | C15H9FN2O2
reactant | 5-hydroxy-6-methoxy-1,2,3,4-tetrahydroisoquinoline hydrochloride | 0.41 mmol, 88 mg, 1.10 equiv | Cl.OC1=C2CCNCC2=CC=C1OC
reactant | O-(7-Azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 0.45 mmol, 170 mg, 1.20 equiv | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
reactant | DIEA | 1.87 mmol, 241 mg, 5.00 equiv | CCN(C(C)C)C(C)C | C8H19N
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
solvent | oxolane | 10 mL | O1CCCC1 | C4H8O
product | 2-[[2-(4-fluorophenyl)quinazolin-4-yl]carbonyl]-5-hydroxy-6-methoxy-1,2,3,4-tetrahydroisoquinoline | FC1=CC=C(C=C1)C1=NC2=CC=CC=C2C(=N1)C(=O)N1CC2=CC=C(C(=C2CC1)O)OC | C25H20FN3O3
